US09102669B2
6-fluoro-1-(1-(6-(1-propyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)indoline (Compound #79)
The title compound was prepared following the procedure as described in Example 1, Method A, reacting 1-propylpyrazole-4-boronic acid pinacol ester and 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline.

reactant | 1-propylpyrazole-4-boronic acid pinacol ester | C(CC)N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C12H21BN2O2
reactant | 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | ClC1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C17H18ClFN4
product | 6-fluoro-1-(1-(6-(1-propyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)indoline | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C=1N=NC(=CC1)C=1C=NN(C1)CCC | C23H27FN6
